data/mechanism_extracts/JACS/10.1021_jacs.3c10109.json
{"doi": "10.1021_jacs.3c10109", "journal": "JACS", "is_review": false, "rxn_class_summary": "Ni-catalyzed enantioselective electroreductive cross-coupling (eRCC) of acrylates with aryl halides and alkyl bromides to give alpha-aryl carbonyls in an undivided cell with sacrificial Fe anode", "mechanism_family": ["sacrificial_anode", "electrocatalysis_inner_sphere", "radical_cathodic", "direct_SET"], "electrochemical_role": "Cathodic reduction (Ni foam) regenerates low-valent Ni species (Ni(II)->Ni(I) and Ar-Ni(III)->Ar-Ni(II)); Fe sacrificial anode is oxidized to Fe2+ to balance charge", "key_intermediates": [{"name": "Ni(I)L precatalyst A (chiral BiIM-ligated Ni(I))", "smiles": null, "role": "reactive"}, {"name": "Ar-Ni(III) species (oxidative addition adduct of ArCl to Ni(I))", "smiles": null, "role": "transient"}, {"name": "Ar-Ni(II) species B (after cathodic reduction)", "smiles": null, "role": "reactive"}, {"name": "alkyl radical (tert-butyl radical from t-BuBr via SET with Ni(I))", "smiles": "[CH2]C(C)(C)C", "role": "transient"}, {"name": "alpha-ester C-radical intermediate C (alkyl radical addition to acrylate)", "smiles": null, "role": "reactive"}, {"name": "Ar-Ni(III)-alkyl intermediate D", "smiles": null, "role": "transient"}, {"name": "Ni(I) species E (after reductive elimination)", "smiles": null, "role": "reactive"}, {"name": "Dimeric Ni/BiIM species Ni-1 (two BiIM ligands per Ni, characterized by XRD)", "smiles": null, "role": "resting_state"}], "electron_flow": "Cathode reduces Ni(II) precatalyst to Ni(I) (A), which undergoes oxidative addition with ArCl to give Ar-Ni(III); cathodic reduction yields Ar-Ni(II) (B). In parallel, Ni(I) activates alkyl bromide by SET to release an alkyl radical that adds to the acrylate giving radical C, which is captured by B to form Ar-Ni(III)-alkyl D; reductive elimination delivers the product and Ni(I) (E), while Fe anode is oxidized to Fe2+.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Product 4a not formed (0% yield), consistent with radical intermediates"}, {"name": "BHT", "smiles": "CC(C)(C)c1cc(C)cc(C(C)(C)C)c1O", "purpose": "radical_trap", "observation": "Product 4a not formed (0% yield)"}, {"name": "Mn", "smiles": "[Mn]", "purpose": "other", "observation": "No product without electric current; underscores requirement of electrochemistry"}, {"name": "Zn", "smiles": "[Zn]", "purpose": "other", "observation": "No product without electric current"}, {"name": "TDAE (tetrakis(dimethylamino)ethylene)", "smiles": "CN(C)C(=C(N(C)C)N(C)C)N(C)C", "purpose": "other", "observation": "No product as chemical reductant alone"}, {"name": "tert-butyl bromide (3a) added to NiBr2.glyme/L1 in CV", "smiles": "CC(C)(C)Br", "purpose": "redox_probe", "observation": "Reduction peak of Ni(II)/Ni(I) considerably increased, indicating SET from Ni(I) to alkyl bromide generates alkyl radicals"}, {"name": "aryl chloride 1a added in CV", "smiles": null, "purpose": "redox_probe", "observation": "Oxidation peak at -0.59 V disappears with increasing 1a; consistent with oxidative addition of ArCl to Ni(I)"}, {"name": "Controlled potential electrolysis", "smiles": null, "purpose": "other", "observation": "No product at -1.0 V; 68% yield/94% ee at -1.8 V; 27% at -2.2 V, supporting Ni(I) (not Ni(0)) as active species"}, {"name": "Electrolysis without catalyst", "smiles": null, "purpose": "other", "observation": "No radical addition product detected (Fig 1G), excluding direct cathodic generation of alkyl radicals"}, {"name": "Nonlinear effect study with chiral L1", "smiles": null, "purpose": "other", "observation": "Positive nonlinear effect (ee_prod > ee_L1), indicating a dimeric Ni species with two BiIM ligands is involved in the enantio-determining step"}], "evidence_types_used": ["cyclic_voltammetry", "intermediate_trap_TEMPO", "intermediate_trap_BHT", "isolation_of_intermediate", "stoichiometric_intermediate", "kinetic_order"], "evidence_strength": "strong", "notes": "Authors favor Ni(I)/Ni(III) cycle (rather than Ni(0)/Ni(II)) based on CV showing oxidation peak disappearance upon ArCl addition and constant-potential electrolysis at -1.87 V (matching Ni(II)/Ni(I) couple). Positive nonlinear effect suggests a dimeric Ni-BiIM2 species participates in the stereo-determining step; a dimeric Ni species (Ni-1) was crystallographically characterized. Fe anode is sacrificial (oxidized to Fe2+). Chemical reductants (Mn, Zn, TDAE) fail under otherwise identical conditions, highlighting unique role of cathodic reduction."}
